US09422278B2
Preparation of N-(3-chloro-1-(pyridin-3-yl)-1H-pyrazol-4-yl)-2-methyl-3-(methylthio)-N-(3-(methylthio)propanoyl)propanamide (Compound 407)
To a solution of N-(3-chloro-1-(pyridin-3-yl)-1H-pyrazol-4-yl)-3-(methylthio)propanamide (0.216 g, 0.728 mmol) in DCE (2.91 ml) in a 10 mL vial was added 2-methyl-3-(methylthio)propanoyl chloride (0.244 g, 1.601 mmol). The vial was capped and placed in a Biotage Initiator microwave reactor for 3 hours at 100° C., with external IR-sensor temperature monitoring from the side of the vessel. The crude mixture was concentrated and purified using reverse phase C-18 column chromatography (0-100% acetonitrile/water) to yield the title compound as a pale yellow oil (67 mg, 22%): IR (thin film) 2916 and 1714 cm−1; 1H NMR (300 MHz, CDCl3) δ 8.96-8.92 (d, J=2.7 Hz, 1H), 8.64-8.59 (dd, J=4.9, 1.4 Hz, 1H), 8.07-7.99 (m, 2H), 7.50-7.40 (dd, J=8.4, 4.8 Hz, 1H), 3.39-3.28 (m, 1H), 3.10-2.99 (td, J=7.2, 3.9 Hz, 2H), 2.96-2.86 (dd, J=13.2, 8.7 Hz, 1H), 2.86-2.79 (t, J=7.3 Hz, 2H), 2.58-2.48 (dd, J=13.1, 5.8 Hz, 1H), 2.14-2.12 (s, 3H), 2.09-2.06 (s, 3H), 1.30-1.26 (d, J=6.9 Hz, 3H); ESIMS m/z 413 ([M+H]+).

reactant | N-(3-chloro-1-(pyridin-3-yl)-1H-pyrazol-4-yl)-3-(methylthio)propanamide | 0.728 mmol, 0.216 g | ClC1=NN(C=C1NC(CCSC)=O)C=1C=NC=CC1 | C12H13ClN4OS
reactant | 2-methyl-3-(methylthio)propanoyl chloride | 1.601 mmol, 0.244 g | CC(C(=O)Cl)CSC | C5H9ClOS
solvent | DCE | 2.91 ml | ClCCCl | C2H4Cl2
product | N-(3-chloro-1-(pyridin-3-yl)-1H-pyrazol-4-yl)-2-methyl-3-(methylthio)-N-(3-(methylthio)propanoyl)propanamide | 67 mg, 22% | ClC1=NN(C=C1N(C(C(CSC)C)=O)C(CCSC)=O)C=1C=NC=CC1 | C17H21ClN4O2S2
